US06232316B1
(4E)-N-Methyl-5-(5-methoxy-3-pyridyl)4-penten-2-amine
A mixture of (4E)-5-(5-methoxy-3-pyridyl)4-penten-2-ol p-toluenesulfonate (5.00 g, 14.41 mmol), methylamine (150 mL, 40% solution in water), and ethyl alcohol (10 mL) was stirred at ambient temperature for 18 h. The resulting solution was extracted with chloroform (3×100 mL). The combined chloroform extracts were dried over sodium sulfate, filtered, and concentrated by rotary evaporation. The crude product was purified by column chromatography over aluminum oxide, eluting with ethyl acetate-methanol (7:3, v/v). Selected fractions were combined and concentrated by rotary evaporation, producing an oil. Further purification by vacuum distillation furnished 1.25 g (41.8%) of a colorless oil, bp 90-100° C. at 0.5 mm Hg.

reactant | (4E)-5-(5-methoxy-3-pyridyl)4-penten-2-ol p-toluenesulfonate | 14.41 mmol, 5.00 g | C1(=CC=C(C=C1)S(=O)(=O)OC(C)C\C=C\C=1C=NC=C(C1)OC)C | C18H21NO4S
reactant | methylamine | 150 mL | CN | CH5N
solvent | ethyl alcohol | 10 mL | C(C)O | C2H6O
product | (4E)-N-Methyl-5-(5-methoxy-3-pyridyl)4-penten-2-amine | 1.25 g, 41.8% | CNC(C)C\C=C\C=1C=NC=C(C1)OC | C12H18N2O
